US07960402B2
(1) Production of methyl 2-bromo-5-hydroxybenzoate
Bromine (6.74 mL) was added to a solution of methyl 3-hydroxybenzoate (20.0 g) in dichloromethane (200 mL) and stirred at room temperature for 4 hours. The reaction solution was concentrated, diisopropyl ether (40 mL) was added and the solid separated out therefrom was filtered to give the aimed compound (28.3 g, 93%) as a colorless solid.

reactant | Bromine | 6.74 mL | BrBr | Br2
reactant | methyl 3-hydroxybenzoate | 20.0 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | methyl 2-bromo-5-hydroxybenzoate | 28.3 g, 93% | BrC1=C(C(=O)OC)C=C(C=C1)O | C8H7BrO3
